US07985753B2
1,7-Dimethyl-3,4-dihydro-isoquinoline
In close analogy to the procedure described above, N-(2-p-tolyl-ethyl)-acetamide is reacted with phosphorus pentoxide to provide the title compound.

reactant | N-(2-p-tolyl-ethyl)-acetamide | C1(=CC=C(C=C1)CCNC(C)=O)C | C11H15NO
reactant | phosphorus pentoxide | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 1,7-Dimethyl-3,4-dihydro-isoquinoline | CC1=NCCC2=CC=C(C=C12)C | C11H13N
